US07465733B2
Step A: tert-Butyl 4-[(2R)-2,3-dihydro-1,4-benzodioxin-2-ylcarbonyl]piperazine-1-carboxylate
5 g of (2R)-2,3-dihydro-1,4-benzodioxin-2-carboxylic acid (27.8 mmol) are dissolved in 300 ml of acetonitrile. 6 g of N,N′-dicyclohexylcarbodiimide (29.1 mmol) and then 4.1 g of 1-hydroxybenzotriazole (30.6 mmol) are added. Finally, 6.2 g of tert-butyl piperazine-1-carboxylate (33.4 mmol) are added and stirring is carried out for 12 hours at ambient temperature. The reaction mixture is subsequently filtered and the filtrate is then evaporated to dryness. The oil thereby obtained is purified by flash chromatography on silica (eluant: toluene/ethyl acetate 80/20) to yield the expected product in the form of an oil.

reactant | (2R)-2,3-dihydro-1,4-benzodioxin-2-carboxylic acid | 27.8 mmol, 5 g | O1[C@H](COC2=C1C=CC=C2)C(=O)O | C9H8O4
reactant | N,N′-dicyclohexylcarbodiimide | 29.1 mmol, 6 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1-hydroxybenzotriazole | 30.6 mmol, 4.1 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | tert-butyl piperazine-1-carboxylate | 33.4 mmol, 6.2 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | tert-Butyl 4-[(2R)-2,3-dihydro-1,4-benzodioxin-2-ylcarbonyl]piperazine-1-carboxylate | O1[C@H](COC2=C1C=CC=C2)C(=O)N2CCN(CC2)C(=O)OC(C)(C)C | C18H24N2O5
